US05410067
The reaction mixture is prepared in an autoclave by adding 0.04 mole (15 g) of 2-nitro-4,5-dibenzyloxyphenylacetonitrile, 1.5 g of palladium at a concentration of 10% on charcoal and 1.5 g of charcoal to 120 ml of ethanol containing 3 ml of water. These are heated to 80° C. for 2 hours, with stirring, under a hydrogen pressure of 4.105Pa. After cooling, the reaction mixture, which is treated in the same manner as previously, produces 5,6-dihydroxyindole in an equivalent yield.

reactant | 2-nitro-4,5-dibenzyloxyphenylacetonitrile | 0.04 mole, 15 g | [N+](=O)([O-])C1=C(C=C(C(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)CC#N | C22H18N2O4
reactant | charcoal | 1.5 g | C | CH4
reactant | ethanol | 120 ml | C(C)O | C2H6O
catalyst | palladium | 1.5 g | [Pd] | Pd
solvent | water | O | H2O
product | 5,6-dihydroxyindole | OC=1C=C2C=CNC2=CC1O | C8H7NO2
